US05112834
K. 3-formyl-2-methyl-8-(2-(trans)-methylsulfonyloxy-2,3-dihydro-1-indenyloxy)-imidazo[1,2-a]pyridine
8.5 ml triethylamine is added, while stirring and excluding any moisture, to 10 g 3-formyl-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine, suspended in 200 ml dry dichloromethane. This is cooled in an icebath and 5 ml methane sulfonyl chloride dissolved in 10 ml dry dichloromethane is added dropwise. This is stirred for 1 hour while cooling with ice, and the solution is poured onto icewater and extracted several times with dichloromethane. The organic phases are washed with water and dried, and the solvent is stripped off in vacuo. The yellowish residue is stirred with diethyl ether, filtered off under suction and dried. 12 g of the title compound of m.p. 158°-160° C. is obtained. By analogous methods 2-methyl-8-(2-(trans)methylsulfonyloxy-2,3-dihydro-1-indenyloxy)-imidazo[1,2-a]pyridine is obtained from 2-methyl-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-imidazo[1,2-a]pyridine and methane sulfonyl chloride. M.p. 122°-125° C. (decomposition).

reactant | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-formyl-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine | 10 g | C(=O)C1=C(N=C2N1C=CC=C2O[C@H]2[C@@H](CC1=CC=CC=C21)O)C | C18H16N2O3
reactant | methane sulfonyl chloride | 5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-formyl-2-methyl-8-(2-(trans)-methylsulfonyloxy-2,3-dihydro-1-indenyloxy)-imidazo[1,2-a]pyridine | 12 g | C(=O)C1=C(N=C2N1C=CC=C2O[C@H]2[C@@H](CC1=CC=CC=C21)OS(=O)(=O)C)C | C19H18N2O5S
